US04455307
8-Bromo-1-propyl-6-(2-pyridinyl)-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine.
A mixture of 1.5 g of 7-bromo-2-hydrazino-5-(2-pyridinyl)-3H-1,4-benzodiazepine in 45 ml of tetrahydrofuran cooled in an ice bath over a nitrogen atmosphere is added 0.57 ml of butyryl chloride dropwise over 90 sec. After stirring for 4.5 hrs, there is added an additional 0.1 ml of butyryl chloride. The resulting mixture is then stirred at ambient temperature for 18 hrs, poured into 300 ml of aqueous sodium bicarbonate and filtered. The filtrate is extracted with dichloromethane, washed with dilute brine, dried over sodium sulphate, and concentrated under reduced pressure. The resulting residue is then heated in an oil bath at 120°-125° C. for 45 min, allowed to cool, and concentrated under reduced pressure. The residue is then dissolved in dichloromethane, washed with aqueous sodium bicarbonate and dilute brine, dried over sodium sulphate, and concentrated under reduced pressure. The resulting residue is then chromatographed on 150 g of silica gel eluting with 2.5% methanol in dichloromethane. Crystallization from ethyl acetate yields 0.27 g of title product. Melting point is 184°-186° C.

reactant | 7-bromo-2-hydrazino-5-(2-pyridinyl)-3H-1,4-benzodiazepine | 1.5 g | BrC=1C=CC2=C(C(=NCC(=N2)NN)C2=NC=CC=C2)C1 | C14H12BrN5
reactant | butyryl chloride | 0.57 ml | C(CCC)(=O)Cl | C4H7ClO
reactant | butyryl chloride | 0.1 ml | C(CCC)(=O)Cl | C4H7ClO
reactant | sodium bicarbonate | 300 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | 8-Bromo-1-propyl-6-(2-pyridinyl)-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine | 0.27 g | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCC)C3=NC=CC=C3)C1 | C18H16BrN5
